US05641889
(-)-(1S, 2R, 4R)-4-[6-(allylthio)-2-amino-9H-purin-9-yl]-2-(hydroxymethyl)-1-cyclopentanol
(+)-(1S, 2R, 4R)-4-(2-Amino-1,6-dihydro-6-thioxo-9H-purin-9-yl)-2-(hydroxymethyl)-1-cyclopentanol (351 mg, 1.25 mmol) and 1N sodium hydroxide (1.25 mL) were stirred with allyl chloride (0.15 mL) for 5 hours. The solution was neutralized with hydrochloric acid and volatiles evaporated. The residue was chromatographed on silica gel. Title compound was eluted with 12% methanol-chloroform as a white solid foam which solidified to white powder from acetonitrile (240 mg, 60%); m.p. 133-134°; mass spectrum (Cl, CH4):322 (M+1);1H-NMR (DMSO d6)δ: 8.07 (s, 1, H8), 6.51 (br s, 2, NH2), 6.10-5.85 (m, 1, CH=), 5.45-5.30 (m, 1, 1/2CH2 =),5.15-5.05 (m, 1, 1/2CH2 =), 5.0-4.8 (m, 1, CHN), 4.79 (d, J=4.1 Hz, 1, OH), 4.66 (t, J=5.2 Hz, 1, CH2OH), 4.15-4.0 (m, 1, CHO), 3.98 (d, J=6.9 Hz, 2, CH2S), 3.6-3.4(m, 2, CH2O), 2.4-1.9(m, 4, CH +methylenes), 1.7-1.55 (m, 1, 1/2CH2); [α]20589 +9.30°, [α]20578 +9.68°, [α]20546 +11.1°, [α]20436 +18.6°, [α]20365 +25.4°(c=0.79, methanol).

reactant | (+)-(1S, 2R, 4R)-4-(2-Amino-1,6-dihydro-6-thioxo-9H-purin-9-yl)-2-(hydroxymethyl)-1-cyclopentanol | 1.25 mmol, 351 mg | NC=1NC(C=2N=CN(C2N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)=S | C11H15N5O2S
reactant | sodium hydroxide | 1N, 1.25 mL | [OH-].[Na+]
reactant | allyl chloride | 0.15 mL | C(C=C)Cl | C3H5Cl
reactant | hydrochloric acid | Cl | ClH
product | (-)-(1S, 2R, 4R)-4-[6-(allylthio)-2-amino-9H-purin-9-yl]-2-(hydroxymethyl)-1-cyclopentanol | C(C=C)SC1=C2N=CN(C2=NC(=N1)N)[C@@H]1C[C@@H]([C@H](C1)O)CO | C14H19N5O2S
